US07470723B2
To a solution of [3-(tert-butyl-dimethyl-silanyloxy)-4-methoxy-phenyl]-(3,5-dimethoxy-phenyl)-methanol (13.1 g, 32.4 mmol) in CH2Cl2 (330 mL) was added manganese dioxide (13.0 g, 150.0 mmol), and the mixture was stirred at ambient temperature for 8 h. Manganese dioxide (13.0 g, 150.0 mmol) was again added, and stirring proceeded for an additional 16 h. The mixture was filtered through Celite, and the sicciate was washed with CH2Cl2 (50 mL). The filtrate was evaporated, providing [3-(tert-butyl-dimethyl-silanyloxy)-4-methoxy-phenyl]-(3,5-dimethoxy-phenyl)-methanone as an oil (12.9 g, 99% yield): 1H NMR (CDCl3) δ 0.18 (s, 6H, 2SiCH3), 1.00 (s, 9H, SiC(CH3)3), 3.83 (s, 6H, 2OCH3), 3.89 (s, 3H, OCH3), 6.65 (t, J=2.4 Hz, 1H, Ar), 6.86-6.90 (m, 3H, Ar), 7.39-7.47 (m, 2H, Ar).

reactant | [3-(tert-butyl-dimethyl-silanyloxy)-4-methoxy-phenyl]-(3,5-dimethoxy-phenyl)-methanol | 32.4 mmol, 13.1 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1OC)C(O)C1=CC(=CC(=C1)OC)OC)(C)C | C22H32O5Si
solvent | CH2Cl2 | 330 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 150.0 mmol, 13.0 g | [O-2].[O-2].[Mn+4]
catalyst | Manganese dioxide | 150.0 mmol, 13.0 g | [O-2].[O-2].[Mn+4]
product | [3-(tert-butyl-dimethyl-silanyloxy)-4-methoxy-phenyl]-(3,5-dimethoxy-phenyl)-methanone | 12.9 g, 99% yield | C(C)(C)(C)[Si](OC=1C=C(C=CC1OC)C(=O)C1=CC(=CC(=C1)OC)OC)(C)C | C22H30O5Si
